US08536204B2
Stage 3: (Pyridin-3-yl)-1H-pyrazole-4-carbonyl chloride hydrochloride
4.00 g (21.15 mmol) of 1-(pyridin-3-yl)-1H-pyrazole-4-carboxylic acid were initially charged in approx. 100 ml of dichloromethane, and admixed with 2 drops of dimethylformamide under argon. 7.783 g (61.32 mmol) of oxalyl chloride were added dropwise and, after the end of the addition, the mixture was stirred at room temperature for 1 hour. The solution was concentrated, and the residue was admixed with approx. 10 ml of toluene and concentrated. This gave a colourless solid which was converted further immediately.

reactant | 1-(pyridin-3-yl)-1H-pyrazole-4-carboxylic acid | 21.15 mmol, 4.00 g | N1=CC(=CC=C1)N1N=CC(=C1)C(=O)O | C9H7N3O2
reactant | oxalyl chloride | 61.32 mmol, 7.783 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | approx. 100 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | (Pyridin-3-yl)-1H-pyrazole-4-carbonyl chloride hydrochloride | Cl.N1=CC(=CC=C1)N1N=CC(=C1)C(=O)Cl | InChI=1S/C9H6ClN3O.ClH/c10-9(14)7-4-12-13(6-7)8-2-1-3-11-5-8;/h1-6H;1H
